US06734179B2
N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-pyrrolidin-1-ylmethyl-isonicotinamide
The title compound was prepared from 2-chloromethyl-N-[7-(tetrahydro-pyran-4-yl)-4-methoxy-benzothiazol-2-yl]-isonicotinamide (prepared from 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and 4-(2-chloromethyl)-isonicotinic acid chloride as described for 2-chloromethyl-N-(7-cyclohexyl-4-methoxy-benzothiazol-2-yl)-isonicotinamide) and pyrrolidine as described for N-(7-Cyclohexyl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-ylmethyl-isonicotinamide and obtained as light yellow solid (62% yield), mp 200-202° C. MS: m/e=453 (M+H+).

reactant | 2-chloromethyl-N-[7-(tetrahydro-pyran-4-yl)-4-methoxy-benzothiazol-2-yl]-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C20H20ClN3O3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N-(7-Cyclohexyl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-ylmethyl-isonicotinamide | C1(CCCCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)CN2CCCC2)=O)OC | C25H30N4O2S
product | N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-pyrrolidin-1-ylmethyl-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)CN2CCCC2)=O)C2CCOCC2 | C24H28N4O3S
